US08372867B2
To a solution of 4-bromo-2-methylbenzoic acid (10 g) in tetrahydrofuran (100 mL), a solution of 1.6M n-butyl lithium in hexane (60 mL) was added at −70° C. After the reaction mixture was stirred for one hour at −40° C., a solution of N,N-dimethylformamide (10 mL) in tetrahydrofuran (10 mL) was added to the mixture at −70° C. After stirred for one hour at −70° C. and then warmed to room temperature, the mixture was poured onto ice and diluted with water. The aqueous layer was washed with hexane and acidified with concentrated hydrochloric acid, and the precipitate was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product of 4-formyl-2-methylbenzoic acid (5 g).

reactant | 4-bromo-2-methylbenzoic acid | 10 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | 60 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-formyl-2-methylbenzoic acid | 5 g | C(=O)C1=CC(=C(C(=O)O)C=C1)C | C9H8O3
